US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-N-(1-naphthalenylmethyl)acetamide
To a solution of (1RS,2SR)-1-(4-fluorophenyl)-2-((1-naphthalenylmethyl)amino)-3-(4-(trifluoromethyl)phenyl)-1-propanol (100 mg, 0.22 mmol) in ethyl acetate (5 ml) were added acetyl chloride (225 ml, 3.3 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (45 mg, 41%).

reactant | (1RS,2SR)-1-(4-fluorophenyl)-2-((1-naphthalenylmethyl)amino)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 0.22 mmol, 100 mg | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NCC1=CC=CC2=CC=CC=C12)O | C27H23F4NO
reactant | acetyl chloride | 3.3 mmol, 225 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-N-(1-naphthalenylmethyl)acetamide | 45 mg, 41% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N(C(C)=O)CC1=CC=CC2=CC=CC=C12)O | C29H25F4NO2
